US09169259B2
A mixture of tert-butylhydrazine (2.4 g, 27 mmol), 2-chloroacrylonitrile (2.9 g, 33 mmol), NaOAc (3.17 g, 38 mmol) and ethanol (30 mL) was heated to 80° C. with stirring for 12 h. The solvent was removed in vacuo and the resulting mixture was treated with saturated NaHCO3 solution (200 mL) and extracted with ethyl acetate (200 mL×3). The organic layers were dried over NaSO4, concentrated in vacuo, purified by chromatography (silica gel, 200-300 mesh, petroleum ether:ethyl acetate=2:1 to 1:2) to give 1-tert-butyl-1H-pyrazol-3-amine (1.39 g, 37%) as a brown oil. LC-MS: [M+H]+, 140.2, tR=0.696 min.

reactant | tert-butylhydrazine | 27 mmol, 2.4 g | C(C)(C)(C)NN | C4H12N2
reactant | 2-chloroacrylonitrile | 33 mmol, 2.9 g | ClC(C#N)=C | C3H2ClN
reactant | NaOAc | 38 mmol, 3.17 g | CC(=O)[O-].[Na+]
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 1-tert-butyl-1H-pyrazol-3-amine | 1.39 g, 37% | C(C)(C)(C)N1N=C(C=C1)N | C7H13N3
